US06388084B1
To a suspension of N-[(2,6-dichlorophenyl)carbonyl]-4-[1,6-dimethyl-4-(trifluoromethyl)-2-oxo-3-pyridinyl]-L-phenylalanine (145 mg, 0.275 mmol) and sodium bicarbonate (185 mg, 2.2 mmol) in DMF (2 mL) was added 1-chloroethyl acetate (270 mg, 2.2 mmol) at room temperature. The mixture was stirred for 48 h at room temperature. Then, the reaction mixture was poured into water (30 mL) and was extracted with ethyl acetate (3×20 mL). The combined organic extracts were washed with brine solution (60 mL) and were dried over anhydrous magnesium sulfate. Filtration of the drying agent and concentration gave the crude product, which was purified by silica gel chromatography using a Biotage (40s) column to afford 110 mg (65% yield) of N-[(2,6-dichlorophenyl)carbonyl]-4-[1,6-dimethyl-4-(trifluoromethyl)-2-oxo-3-pyridinyl]-L-phenylalanine 1-(acetoxy)ethyl ester as an amorphous white solid. ES-HRMS m/e calcd for C28H25Cl2F3N2O6 (M+Na) 635.0931, found 635.0932.

reactant | N-[(2,6-dichlorophenyl)carbonyl]-4-[1,6-dimethyl-4-(trifluoromethyl)-2-oxo-3-pyridinyl]-L-phenylalanine | 0.275 mmol, 145 mg | ClC1=C(C(=CC=C1)Cl)C(=O)N[C@@H](CC1=CC=C(C=C1)C=1C(N(C(=CC1C(F)(F)F)C)C)=O)C(=O)O | C24H19Cl2F3N2O4
reactant | sodium bicarbonate | 2.2 mmol, 185 mg | C([O-])(O)=O.[Na+]
reactant | 1-chloroethyl acetate | 2.2 mmol, 270 mg | C(C)(=O)OC(C)Cl | C4H7ClO2
reactant | water | 30 mL | O | H2O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | N-[(2,6-dichlorophenyl)carbonyl]-4-[1,6-dimethyl-4-(trifluoromethyl)-2-oxo-3-pyridinyl]-L-phenylalanine 1-(acetoxy)ethyl ester | 110 mg, 65% yield | C(C)(=O)OC(C)OC([C@@H](NC(=O)C1=C(C=CC=C1Cl)Cl)CC1=CC=C(C=C1)C=1C(N(C(=CC1C(F)(F)F)C)C)=O)=O | C28H25Cl2F3N2O6
